US07662825B2
N-(5-Bromo-3-methoxy-2-pyrazinyl)4-chlorobenzenesulphonamide
Prepared by the method of Example 1 (reaction performed at room temperature) using 5-bromo-3-methoxy-2-pyrazinamine (0.1 g) and 4-chlorobenzenesulphonyl chloride (0.13 g).

reactant | 5-bromo-3-methoxy-2-pyrazinamine | 0.1 g | BrC=1N=C(C(=NC1)N)OC | C5H6BrN3O
reactant | 4-chlorobenzenesulphonyl chloride | 0.13 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | N-(5-Bromo-3-methoxy-2-pyrazinyl)4-chlorobenzenesulphonamide | BrC=1N=C(C(=NC1)NS(=O)(=O)C1=CC=C(C=C1)Cl)OC | C11H9BrClN3O3S
